US07989461B2
Preparation of 6-(2-fluoropyridin-3-yl)-N-methylpyrimidin-4-amine
To an RBF, under a reflux condenser, was added 6-chloro-N-methylpyrimidin-4-amine (5.0 g, 35 mmol), 2-fluoropyridin-3-ylboronic acid (7.4 g, 52 mmol), potassium acetate (10 g, 104 mmol), 1-butanol (100 mL) and DI water (20 mL). The mixture was purged with Ar (vacuum/purge three times to remove oxygen), then PdCl2(P-t-Bu2Ph)2 (0.26 g, 0.42 mmol) was added. The reaction mixture was stirred in a 100° C. oil bath for 17 h. The reaction mixture was allowed to cool to room temperature and diluted with Et2O (500 mL). The mixture was washed with water (3×200 mL), brine (200 mL), dried over Na2SO4, filtered and concentrated in vacuo to ˜100 mL bright yellow butanol solution. The solution was azeotroped with hexane (3×500 mL). Upon the third azeotrope (volume ˜90 mL) a white precipitate was observed. The suspended solid was collected by solution filtration and vacuum-dried to afford 2.48 g as a white solid. The filtrate was diluted with Et2O (300 mL) and extracted with 1 N aq HCl (2×150 mL). The aqueous extract was basified with 5 N NaOH and extracted with Et2O (2×150 mL). The organic extract was washed with saturated NaCl (100 mL), dried over Na2SO4, filtered, and concentrated in vacuo to afford 2.48 g as an off-white solid. Total yield of title compound: 6-(2-fluoropyridin-3-yl)-N-methylpyrimidin-4-amine (4.95 g, 70%). MS (M+H)+ 205.

reactant | 6-chloro-N-methylpyrimidin-4-amine | 35 mmol, 5.0 g | ClC1=CC(=NC=N1)NC | C5H6ClN3
reactant | 2-fluoropyridin-3-ylboronic acid | 52 mmol, 7.4 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | potassium acetate | 104 mmol, 10 g | C(C)(=O)[O-].[K+]
reactant | 1-butanol | 100 mL | C(CCC)O | C4H10O
solvent | Et2O | 500 mL | CCOCC | C4H10O
solvent | Et2O | 300 mL | CCOCC | C4H10O
solvent | DI water | 20 mL | O | H2O
product | 6-(2-fluoropyridin-3-yl)-N-methylpyrimidin-4-amine | FC1=NC=CC=C1C1=CC(=NC=N1)NC | C10H9FN4
